US09024018B2
(E)-3-(Methoxymethyl)-8-(2-(thiophen-2-yl)vinyl)imidazo[5,1-d][1,2,3,5]tetrazin-4(3H)-one (MM-004)
Sodium nitrite (150 mg, 2.1 mmol) in water (1 mL) was added to a suspension of (E)-4-(2-(thiophen-2-yl)vinyl)-1H-imidazol-5-amine (0.35 g, 1.8 mmol) in 10% HBF4 (4 mL) at 0° C. After stirring at 0° C. for 60 minutes, the precipitate was filtered from solution and dried over P2O5. This diazo compound (IR stretch 2193 cm−1) was used without further purification. Methoxymethyl isocyanate (0.43 g, 4.9 mmol) was added to a solution of (E)-4-diazo-5-(2-(thiophen-2-yl)vinyl)-4H-imidazole (0.3 g, 1.47 mmol) in dry DMSO (2 mL) under nitrogen. The resulting solution was stirred at room temperature for 48 hours, then purified by column chromatography (DCM) to give the title compound as a yellow solid (50 mg, 12%). δH (CDCl3) 8.44 (1H, s), 7.95 (1H, d, J=15.6), 7.34 (1H, d, J=5.1), 7.31 (1H, d, J=15.6), 7.26 (1H, d, J=3.6), 7.08 (1H, dd, J=5.1, 3.6), 5.69 (2H, s), 3.57 (3H, s).

reactant | Sodium nitrite | 2.1 mmol, 150 mg | N(=O)[O-].[Na+]
reactant | (E)-4-(2-(thiophen-2-yl)vinyl)-1H-imidazol-5-amine | 1.8 mmol, 0.35 g | S1C(=CC=C1)/C=C/C=1N=CNC1N | C9H9N3S
reactant | Methoxymethyl isocyanate | 4.9 mmol, 0.43 g | COCN=C=O | C3H5NO2
reactant | (E)-4-diazo-5-(2-(thiophen-2-yl)vinyl)-4H-imidazole | 1.47 mmol, 0.3 g | [N+](=[N-])=C1N=CN=C1\C=C\C=1SC=CC1 | C9H6N4S
solvent | water | 1 mL | O | H2O
solvent | HBF4 | 4 mL | [H+].[B-](F)(F)(F)F
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | (E)-3-(Methoxymethyl)-8-(2-(thiophen-2-yl)vinyl)imidazo[5,1-d][1,2,3,5]tetrazin-4(3H)-one | 50 mg, 12% | COCN1N=NC=2N(C1=O)C=NC2\C=C\C=2SC=CC2 | C12H11N5O2S
